US04324900
3-Amino-4-C-carboxy-2,3,4,6-tetradeoxy-D-arabino-hexose trimethylene dithioacetal
A mixture of 3-azido-4-C-carboxy-2,3,4,6-tetradeoxy-D-arabino-hexose trimethylene dithioacetal (920 mg, 3.01 mmol) and 5% palladium-on-charcoal (375 mg) in methanol (25 ml) is hydrogenated at a pressure of 1 atmosphere for 5 hours at room temperature. The catalyst is then removed by filtration through Celite and the filtrate evaporated and dried in vacuo to give TLC-chromatographically-homogeneous, ninhydrin-positive amino acid trimethylene dithioacetal; yield 816 mg (97%).

reactant | 3-azido-4-C-carboxy-2,3,4,6-tetradeoxy-D-arabino-hexose trimethylene dithioacetal | 3.01 mmol, 920 mg | C1CCSC(C[C@H]([C@@H]([C@H](O)C)C(=O)O)N=[N+]=[N-])S1 | C10H17N3O3S2
reactant | ninhydrin | C1=CC=C2C(=C1)C(=O)C(C2=O)(O)O | C9H6O4
solvent | methanol | 25 ml | CO | CH4O
catalyst | palladium-on-charcoal | 375 mg | [Pd] | Pd
product | 3-Amino-4-C-carboxy-2,3,4,6-tetradeoxy-D-arabino-hexose trimethylene dithioacetal | C1CCSC(C[C@H]([C@@H]([C@H](O)C)C(=O)O)N)S1 | C10H19NO3S2
